* LME49600
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LME49600
* Date: 02/12/2013
* Model Type: All In One
* Simulator: Pspice
* Simulator Version: Pspice 16.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SNAS422D - January 2008 - Revised March 2008
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
*****************************************************************************
* Notes: 
* 1. The following model parameters are modeled for nominal conditions: 
*    Gain, f-3dB vs RBW, Slew Rate, IQ, Noise, IIB, VOS, 
*    Output swing vs Output current, 
* 2. The following parameters are modeled but not accurate: VOH and VOL 
* 3. The following parameters are not modeled: PSRR, Gain vs Power Supply
*    Gain & BW vs Rload, Gain & BW vs Cload
* 4. This model does not reflect actual device behavior for supply voltages
*    less than +-10V.
* 5. Unlike the actual device, the model’s BW pin must be terminated 
*    by a resistance to VEE, and not left floating.
*****************************************************************************
*$
.SUBCKT LME49600 VOUT VIN VCC VEE BW
X_U3         OUTGP OUTGN INP INN VCC VEE VCC BW GSTG_2P_BW 
V_VOS         VIN N23552 0.017
I_I1         N23552 0 DC 1uAdc  
X_H1         OUTP VOUT VC 0 LME49600_H1 
X_U1         N23552 INP VNOISE
R_R1         INN VOUT  1 TC=0,0 
X_U2         OUTP 0 OUTGP OUTGN VCC VEE VC VCC OUT_STG 
.ENDS LME49600
*$
.subckt LME49600_H1 1 2 3 4
H_H1         3 4 VH_H1 -1
VH_H1         1 2 0V
.ends LME49600_H1 
*$
.SUBCKT GSTG_2P_BW OUTP OUTN INP INN VCC VEE EN BW
.PARAM AOL = 2e6
*.PARAM GBW = 500e6
*.PARAM fP1 = {GBW/AOL}
.PARAM fP1 = 210
.PARAM SR =  2e9
.PARAM RP1 = 1e4
.PARAM Ggain = {-AOL/RP1}
.PARAM Cc = {1/(6.28*RP1*fP1)}
.PARAM IOMAX = {1.3*SR*Cc}
.PARAM fP2 = {1.4e5*fP1}
.PARAM RP2 = 1e3
.PARAM CP2 = {1/(6.26*RP2*fP2)}
.PARAM GP2 = {-1/RP2}
.PARAM VIHR = 0.1
.PARAM VOHR = 0.1
.PARAM VTHR = 0.5
.PARAM SCALE = 1000
.PARAM IQNOM = 0.0132
***
VCC_I VCC VCCZ 0
VEE_I VEE VEEZ 0
Io VCCZ VEEZ 0.005
R1BW VCCZ BW 3660
R2BW VEEZ BW 9384
EIQREL NIQREL 0 VALUE = {I(VCC_I)/IQNOM}
REIQREL NIQREL 0 1k
***
EMID NVMR 0 VALUE = {0.5*(V(VCC) + V(VEE))}
EEN NEN 0 VALUE = {MIN(MAX(SCALE*(V(EN)-VTHR),0),1)}
GP1 NP1P NP1N VALUE = {MAX(MIN(V(NEN)*Ggain*V(NIQREL)*V(INP,INN),IOMAX),-IOMAX)}
RP1Ps NP1P 0 {RP1}
RP1Ns NP1N 0 {RP1}
RP1d  NP1P NP1N {2*RP1}
CP1P NP1P 0 {Cc}
CP1N NP1N 0 {Cc}
CP1d NP1P NP1N {0.5*Cc}
GP2 NP2P NP2N VALUE = {V(NEN)*GP2*V(NP1P,NP1N)}
RP2Ps NP2P 0 {RP2}
RP2Ns NP2N 0 {RP2}
RP2d NP2P NP2N {2*RP2}
CP2P NP2P 0 {CP2}
CP2N NP2N 0 {CP2}
CP2d NP2P NP2N {0.5*CP2}
EOUT OUTP OUTN VALUE = {V(NEN)*V(NP2P,NP2N)}
ROUTP OUTP 0 100
ROUTN 0 OUTN 100
ROUTD OUTP OUTN 200
.ENDS GSTG_2P_BW
*$
.SUBCKT OUT_STG OUTP OUTN INP INN VCC VEE VC EN
.PARAM GAIN = 1
.PARAM DV = {0.5}
.PARAM N = 5
.PARAM VDIS = 0.5
.PARAM VTHR = 0.5
.PARAM SCALE = 1000
* Placeholder component to terminate control voltage VC
R_VC VC 0 1k
EEN NEN 0 VALUE = {MIN(MAX(SCALE*(V(EN)-VTHR),0),1)}
EMR NVMR 0 VALUE = {0.5*(V(VCC) + V(VEE))}
* SETS THE UPPER/LOWER OUTPUT HEADROON BASED ON OUTPUT CURRENT
* VC IS A CONTROL VOLTAGE GENERATED BY IOUT AS 1v/1A
EVCC_HR NVCC_HR 0 VALUE ={MIN(ABS(38.1388*PWR(V(VC),4)
+ -49.1145*PWRS(V(VC),3) + 19.0149*PWR(V(VC),2) - 2.0842*V(VC) + 1.4357),V(VCC))}
R_EVCC_HR NVCC_HR 0 1k
EVEE_HR NVEE_HR 0 VALUE ={MIN(ABS(-75.0770*PWR(V(VC),4)
+ +30.2429*PWRS(V(VC),3) + 45.6397*PWR(V(VC),2) + 6.5116*V(VC) + 1.6194),ABS(V(VEE)))}
R_EVEE_HR NVEE_HR 0 1k
EOUTMAX NOUTMAX 0 VALUE = {V(VCC) - V(NVCC_HR)}
EOUTMIN NOUTMIN 0 VALUE = {V(VEE) + V(NVEE_HR)}
**
EIN N_IN 0 VALUE = {V(INP) - V(INN)}
RINP INP 0 100
RINN INN 0 100
RIND INP INN 200
**
EV1P N_V1P 0 VALUE = {V(N_V5P) - 4*DV}
EV2P N_V2P 0 VALUE = {V(N_V5P) - 3*DV}
EV3P N_V3P 0 VALUE = {V(N_V5P) - 2*DV}
EV4P N_V4P 0 VALUE = {V(N_V5P) - DV}
EV5P N_V5P 0 VALUE = {V(NOUTMAX)/GAIN + (N/2)*DV}
**
EV1N N_V1N 0 VALUE = {V(N_V5N) + 4*DV}
EV2N N_V2N 0 VALUE = {V(N_V5N) + 3*DV}
EV3N N_V3N 0 VALUE = {V(N_V5N) + 2*DV}
EV4N N_V4N 0 VALUE = {V(N_V5N) + DV}
EV5N N_V5N 0 VALUE = {V(NOUTMIN)/GAIN - (N/2)*DV}
**
EG1 N_G1 0 VALUE = {GAIN*V(NEN)}
EG2 N_G2 0 VALUE = {0.75*V(N_G1)}
EG3 N_G3 0 VALUE = {0.5*V(N_G1)}
EG4 N_G4 0 VALUE = {0.25*V(N_G1)}
EG5 N_G5 0 VALUE = {0}
**
EB2P N_B2P 0 VALUE = {0.25*GAIN*(V(N_V1P))}
EB3P N_B3P 0 VALUE = {0.25*GAIN*(V(N_V1P)+V(N_V2P))}
EB4P N_B4P 0 VALUE = {0.25*GAIN*(V(N_V1P)+V(N_V2P)+V(N_V3P))}
EB5P N_B5P 0 VALUE = {0.25*GAIN*(V(N_V1P)+V(N_V2P)+V(N_V3P)+V(N_V4P))}
**
EB2N N_B2N 0 VALUE = {0.25*GAIN*(V(N_V1N))}
EB3N N_B3N 0 VALUE = {0.25*GAIN*(V(N_V1N)+V(N_V2N))}
EB4N N_B4N 0 VALUE = {0.25*GAIN*(V(N_V1N)+V(N_V2N)+V(N_V3N))}
EB5N N_B5N 0 VALUE = {0.25*GAIN*(V(N_V1N)+V(N_V2N)+V(N_V3N)+V(N_V4N))}
**
E1U N_1U 0 VALUE = {V(N_G1)*V(N_IN)}
E2U N_2U 0 VALUE = {V(N_G2)*V(N_IN) + V(N_B2P)}
E3U N_3U 0 VALUE = {V(N_G3)*V(N_IN) + V(N_B3P)}
E4U N_4U 0 VALUE = {V(N_G4)*V(N_IN) + V(N_B4P)}
E5U N_5U 0 VALUE = {V(N_G5)*V(N_IN) + V(N_B5P)}
**
E2L N_2L 0 VALUE = {V(N_G2)*V(N_IN) + V(N_B2N)}
E3L N_3L 0 VALUE = {V(N_G3)*V(N_IN) + V(N_B3N)}
E4L N_4L 0 VALUE = {V(N_G4)*V(N_IN) + V(N_B4N)}
E5L N_5L 0 VALUE = {V(N_G5)*V(N_IN) + V(N_B5N)}
**
EX1 N_X1 0 VALUE = {MIN(MAX(V(N_1U),V(N_2L)),V(N_2U))}
R_EX1 N_X1 0 1k
EX2 N_X2 0 VALUE = {MIN(MAX(V(N_X1),V(N_3L)),V(N_3U))}
R_EX2 N_X2 0 1k
EX3 N_X3 0 VALUE = {MIN(MAX(V(N_X2),V(N_4L)),V(N_4U))}
R_EX3 N_X3 0 1k
EX4 OUTP OUTN VALUE = {MIN(MAX(V(N_X3),V(N_5L)),V(N_5U))}
ROUTD OUTP OUTN 200
ROUTP OUTP 0 100
ROUTN OUTN 0 100
GVCC VCC 0 VALUE = {-MIN(V(VC),0)}
GVEE 0 VEE VALUE = {MIN(-V(VC),0)}
.ENDS OUT_STG
*$
.SUBCKT VNOISE 1 2
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
* NV/RHZ AT 1/F FREQ
.PARAM NLF=30
* FREQ FOR 1/F VAL
.PARAM FLW=1
* SET UP VNSE FB
* NV/RHZ FLATBAND
.PARAM NVR=2.8
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS VNOISE
*$
